US07217723B2
6-Acetoxy-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)ethyl]-methyl-amide
To a solution of 6-bromo-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide (246 mg) in dimethylsulfoxide (2 mL) was added potassium acetate (108 mg). After stirring for 30 minutes, the solution was diluted with, and extracted with ethyl acetate. After drying the organic layer with anhydrous sodium sulfate, the solvent was removed by evaporation to provide the title compound (200 mg) as a yellow oily substance.

reactant | 6-bromo-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 246 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(C(CC2)Br)=O)C | C17H17BrFNO3S2
reactant | potassium acetate | 108 mg | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 6-Acetoxy-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)ethyl]-methyl-amide | 200 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(C(CC2)OC(C)=O)=O)C | C19H20FNO5S2
